US09425408B2
3-(8-bromodibenzo[b,d]furan-2-yl)-9-phenyl-9H-carbazole (Compound 9)
A mixture of 2,8-dibromodibenzo[b,d]furan (2.868 g, 10 mmol), (9-phenyl-9H-carbazol-3-yl)boronic acid (3.26 g, 10 mmol), Pd(PPh3)4 (0.30 g, 0.26 mmol) and potassium carbonate (4.1 g, 30 mmol) in dioxane/water (50 mL/10 mL) was degassed and heated at about 90° C. overnight. The resulting mixture was worked up with ethyl acetate/brine, dried over Na2SO4, purified by flash column (hexanes to hexanes/ethyl acetate 40:1). The desired fraction was collected and concentrated, filtration and dried in air to give a white solid (2.70 g, in 55% yield).

reactant | 2,8-dibromodibenzo[b,d]furan | 10 mmol, 2.868 g | BrC1=CC2=C(OC3=C2C=C(C=C3)Br)C=C1 | C12H6Br2O
reactant | (9-phenyl-9H-carbazol-3-yl)boronic acid | 10 mmol, 3.26 g | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)B(O)O | C18H14BNO2
reactant | potassium carbonate | 30 mmol, 4.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane water | 50 mL | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 0.26 mmol, 0.30 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(8-bromodibenzo[b,d]furan-2-yl)-9-phenyl-9H-carbazole | 55% yield | BrC=1C=CC2=C(C3=C(O2)C=CC(=C3)C=3C=CC=2N(C4=CC=CC=C4C2C3)C3=CC=CC=C3)C1 | C30H18BrNO
